US08114316B2
1-(Thiophen-2-ylsulfanyl)-dodecan-2-one
To a solution of thiophene-2-thiol (2.0 g, 17.2 mmol) in dry acetone (100 ml) is added anhydrous potassium carbonate (2.8 g; 20 mmol), followed by 1-chlorododecan-2-one (3.8 g, 17.2 mmol) dropwise. The reaction is stirred for 30 min and RT, filtered and concentrated under reduced pressure. The crude product is further purified by column chromatography (eluent: petrol/ethyl acetate 100:0 to 95:5) to afford the product as a colourless oil (3.66 g, 71%). M/Z 298 (M+). 1H NMR (300 MHz, CDCl3) δ 7.36 (1H, dd), 7.15 (1H, dd), 6.96 (1H, dd), 3.55 (2H, s), 2.55 (2H, t), 1.57 (2H, m), 1.35-1.20 (14H, m), 0.88 (3H, t). 13C NMR (75 MHz, CDCl3) δ 205.1, 134.6, 132.5, 130.3, 127.7, 48.2, 41.1, 31.9, 29.6, 29.5, 29.4, 29.3, 29.1, 23.8, 22.7, 14.1.

reactant | thiophene-2-thiol | 17.2 mmol, 2.0 g | S1C(=CC=C1)S | C4H4S2
reactant | potassium carbonate | 20 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chlorododecan-2-one | 17.2 mmol, 3.8 g | ClCC(CCCCCCCCCC)=O | C12H23ClO
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-(Thiophen-2-ylsulfanyl)-dodecan-2-one | 3.66 g, 71% | S1C(=CC=C1)SCC(CCCCCCCCCC)=O | C16H26OS2
